US07674815B2
Preparation of benzofuran-2-ylmethyl-[2-(3,4-dichloro-phenyl)-ethyl]-amine
A solution of 150 mg (1.03 mmol) of benzofuran-2-carbaldehyde and 195 mg (1.03 mmol) of 2-(3,4-dichloro-phenyl)-ethylamine in methanol (4 ml) was heated to reflux for 3 h. Then the reaction mixture was allowed to cool to RT and 58 mg (1.54 mmol) of sodium borohydride were added. The mixture was heated to reflux over night. After cooling to RT, 0.1 N sodium hydroxide solution was added and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated. The residue was purified by column chromatography (silica gel; dichloromethane and dichloromethane/methanol 95:5). The title compound was isolated as yellow oil (249 mg, 76%). MS (ISP) 320.2 (M+H)+.

reactant | benzofuran-2-carbaldehyde | 1.03 mmol, 150 mg | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 1.03 mmol, 195 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | sodium borohydride | 1.54 mmol, 58 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | benzofuran-2-ylmethyl-[2-(3,4-dichloro-phenyl)-ethyl]-amine | O1C(=CC2=C1C=CC=C2)CNCCC2=CC(=C(C=C2)Cl)Cl | C17H15Cl2NO
